US05688792
Step 2: 4-[2-fluoro-4-(benzyloxycarbonyl)aminophenyl]thiomorpholine
The 4-(2-fluoro-4-nitrophenyl)thiomorpholine (3.67 g, 8.255 mmol) was dissolved in THF (75 mL) and then treated with a solution of sodium hydrosulfite (26.4 g, 151.56) in water (150 mL). The reaction was slightly exothermic. After an hour, the reaction was found to be complete by TLC (30% EtOAc/hexane, UV short wave). After cooling to 0° C. in an ice bath, the reaction was quenched with NaHCO3 (25.5 g, 303.12 mmol). Next, the reaction was diluted with pH 7 buffer (500 mL). After this solution was saturated with solid NaCl, the product was extracted into CH2Cl2 (4×500 mL). The combined extracts were dried over anhydrous Na2SO4, filtered and then concentrated under reduced pressure to yield a yellow solid that was stored in the freezer overnight (16 hours). The crude amine (1.826 g, 8.601 mmol) was dissolved in dry THF (85 mL) and then cooled to -20° C. (MeOH/ice bath). The solution was treated with N,N-dimethylaniline (1.36 mL, 10.75 mmol) and then allowed to stir at -20° C. for 15 minutes. Next, benzylchloroformate [1.42 mL (corrected for 95% purity), 9.46 mmol] was added dropwise. A precipitate fomed almost immediately. The reaction was allowed to stir for an additional 15 minutes before the bath was removed. Upon warming to room temperature under N2 (1 hour), the reaction was found to be complete by TLC (30% EtOAc/hexane, UV short wave). The reaction was diluted with EtOAc (200 mL) and then washed with both water (2×200 mL) and brine (200 mL). The aqueous portions were combined and then back-extracted with more EtOAc (2×200 mL). The organic portions were combined, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to yield a yellowish solid. This crude material was chromatographed on silica gel (150 g, packed with 5% EtOAc/hexane), eluting with 2 L of 5% EtOAc/hexane, 1 L of 10% EtOAc/hexane (CH2Cl2 was added to maintain solubility) to give 2.65 g (50%) of the title compound as an off-white crystalline solid with a melting point of 142° C. and a HRMS (M+) calculated for C18H19N2O2FS 346.1151, found 346.1157.

reactant | 4-(2-fluoro-4-nitrophenyl)thiomorpholine | 8.255 mmol, 3.67 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1CCSCC1 | C10H11FN2O2S
reactant | sodium hydrosulfite | 26.4 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | 303.12 mmol, 25.5 g | C(=O)(O)[O-].[Na+]
reactant | NaCl | [Na+].[Cl-]
reactant | N,N-dimethylaniline | 10.75 mmol, 1.36 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | benzylchloroformate | 9.46 mmol, 1.42 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | water | 150 mL | O | H2O
solvent | THF | 85 mL | C1CCOC1 | C4H8O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 4-[2-fluoro-4-(benzyloxycarbonyl)aminophenyl]thiomorpholine | 2.65 g, 50% | FC1=C(C=CC(=C1)NC(=O)OCC1=CC=CC=C1)N1CCSCC1 | C18H19FN2O2S
